US05463063
By following the procedure of Example 18 but employing N-carbethoxyphthalimide and (S)-phenylalaninamide hydrochloride, there is obtained (S)-2-phthalimido-3-phenylpropionamide which can be recrystallized from ethanol to afford white crystals: mp 211°-215° C.; 1H NMR (dmso-d6) δ 7.92 (s, 5 H, Ph), 7.72, 7.33 (2 s, 2 H), 7.2-7.0 (m, 4 H, Ar), 4.92 (dd, 1 H, J=12, 4.5 Hz), 3.52 (dd, 1 H, J=4.3, 13.9), 3.35 (dd, 1 H, J=12, 13.9); 13C NMR (dmso-d6) δ 169.6, 167.4, 137.7, 134.3, 131.2, 128.5, 128.1, 126.3, 122.9, 54.2, 33.7.

reactant | N-carbethoxyphthalimide | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | (S)-phenylalaninamide hydrochloride | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)N
product | (S)-2-phthalimido-3-phenylpropionamide | C1(C=2C(C(N1[C@H](C(=O)N)CC1=CC=CC=C1)=O)=CC=CC2)=O | C17H14N2O3
